US09260397B2
1-ethyl-3-mesitylimidazolium hexafluorophosphate
According to the general synthesis procedure, 1.18 mmol (0.380 g) 1-ethyl-3-mesityl imidazolium bromide and 1.30 mmol (0.212 g) ammonium hexafluorophosphate are dissolved in 4 ml water. The immediately produced white precipitate is extracted with dichloromethane, the organic phase is dried over magnesium sulfate, and the solvent is removed in vacuum.

reactant | 1-ethyl-3-mesityl imidazolium bromide | 1.18 mmol, 0.380 g | [Br-].C(C)[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C
reactant | ammonium hexafluorophosphate | 1.30 mmol, 0.212 g | F[P-](F)(F)(F)(F)F.[NH4+]
solvent | water | 4 ml | O | H2O
product | 1-ethyl-3-mesitylimidazolium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C(C)[N+]1=CN(C=C1)C1=C(C=C(C=C1C)C)C | InChI=1S/C14H19N2.F6P/c1-5-15-6-7-16(10-15)14-12(3)8-11(2)9-13(14)4;1-7(2,3,4,5)6/h6-10H,5H2,1-4H3;/q+1;-1
